US07713994B2
To a solution of 4-(2-dimethylamino-vinyl)-1-furan-3-yl-1H-pyridin-2-one (21 mmol) in 50% aqueous tetrahydrofuran (700 mL) is added sodium periodate (13 g, 63 mmol). After six hours of stirring at room temperature, the reaction mixture is filtered. The filtrate is washed 3× with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide 1-furan-3-yl-2-oxo-1,2-dihydro-pyridine-4-carbaldehyde as a yellow powder (2.1 g, 53% over 2 steps).

reactant | 4-(2-dimethylamino-vinyl)-1-furan-3-yl-1H-pyridin-2-one | 21 mmol | CN(C=CC1=CC(N(C=C1)C1=COC=C1)=O)C | C13H14N2O2
reactant | sodium periodate | 63 mmol, 13 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 700 mL | O1CCCC1 | C4H8O
product | 1-furan-3-yl-2-oxo-1,2-dihydro-pyridine-4-carbaldehyde | O1C=C(C=C1)N1C(C=C(C=C1)C=O)=O | C10H7NO3
